US04259352
A solution of 20.7 g. of 4-(2-cyclohexylethylamino)-phenylacetic acid in 25 ml. of hexamethylphosphoramide is added to a stirred mixture of 0.800 g. of sodium hydride (57% in mineral oil) and 25 ml. of hexamethylphosphoramide. The solution which forms after one hour is treated with 11.0 g. of methyl iodide and is then stirred at 25° C. for 18 hours. Dilution with water followed by filtration affords a white solid which is crystallized from ethanol to yield methyl 4-(2-cyclohexylethylamino)phenylacetate.

reactant | 4-(2-cyclohexylethylamino)-phenylacetic acid | C1(CCCCC1)CCNC1=CC=C(C=C1)CC(=O)O | C16H23NO2
reactant | sodium hydride | [H-].[Na+]
reactant | methyl iodide | CI | CH3I
solvent | hexamethylphosphoramide | CN(P(=O)(N(C)C)N(C)C)C | C6H18N3OP
product | methyl 4-(2-cyclohexylethylamino)phenylacetate | C1(CCCCC1)CCNC1=CC=C(C=C1)CC(=O)OC | C17H25NO2
